US08975400B2
3-fluoro-4-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4-difluorobenzaldehyde and 2-(trifluoromethyl)pyridin-4-ol.

reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 2-(trifluoromethyl)pyridin-4-ol | FC(C1=NC=CC(=C1)O)(F)F | C6H4F3NO
product | 3-fluoro-4-((2-(trifluoromethyl)pyridin-4-yl)oxy)benzaldehyde | FC=1C=C(C=O)C=CC1OC1=CC(=NC=C1)C(F)(F)F | C13H7F4NO2
